US07632838B2
In an analogous manner to Example 1F, step 1Q 1-[(3,4-dichlorobenzyl)sulfonyl]-4-(3,5-dichloropyridin-4-yl)piperazine was prepared from 1-(3,5-dichloro-4-pyridyl)piperazine (0.1 g, 0.43 mmol) and 3,4-dichlorophenylmethyl sulfonyl chloride (61% yield).

reactant | 1-[(3,4-dichlorobenzyl)sulfonyl]-4-(3,5-dichloropyridin-4-yl)piperazine | ClC=1C=C(CS(=O)(=O)N2CCN(CC2)C2=C(C=NC=C2Cl)Cl)C=CC1Cl | C16H15Cl4N3O2S
reactant | 1-(3,5-dichloro-4-pyridyl)piperazine | 0.43 mmol, 0.1 g | ClC=1C=NC=C(C1N1CCNCC1)Cl | C9H11Cl2N3
product | 3,4-dichlorophenylmethyl sulfonyl chloride | 61% yield | ClC=1C=C(C=CC1Cl)CS(=O)(=O)Cl | C7H5Cl3O2S
